US03970454
5. Preparation of N-methyl-1,2,3,4-tetrahydro-7-propyl-8-hydroxyquinoline
Into a stainless steel autoclave, one introduces 37.3 g of paratoluenesulfonate of N-methyl-7-propyl-8-hydroxyquinoline (0.1 mole) in 120 ml of water, and 5 g of Raney nickel. The hydrogenation is carried out under an 80 kg/cm2 hydrogen pressure. After absorption of the hydrogen, one cools and filters off the catalyst; one neutralizes the filtrate with an ammonia solution, resulting in the formation of a grayish-white precipitate that one separates and distills under high vacuum. One collects 8 g of a colorless liquid that distills at 180°-110°C under a 0.5 mm Hg pressure. One obtains a yield of 36%.

reactant | N-methyl-7-propyl-8-hydroxyquinoline | 0.1 mole | CN1CC=CC2=CC=C(C(=C12)O)CCC | C13H17NO
reactant | hydrogen | [H][H] | H2
solvent | water | 120 ml | O | H2O
catalyst | Raney nickel | 5 g | [Ni] | Ni
product | N-methyl-1,2,3,4-tetrahydro-7-propyl-8-hydroxyquinoline | yield of 36% | CN1CCCC2=CC=C(C(=C12)O)CCC | C13H19NO
